US08809382B2
Step 3 (3-Hexyl-1-methyl-1H-indole)
To a solution of 3-hexyl-1H-Indole in DMSO was added KOH at RT and was stirred for 30 minutes. Iodomethane was added to the above mixture and stirred for 3 hours. The reaction was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 3-hexyl-1H-Indole | C(CCCCC)C1=CNC2=CC=CC=C12 | C14H19N
reactant | KOH | [OH-].[K+]
reactant | Iodomethane | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Hexyl-1-methyl-1H-indole | C(CCCCC)C1=CN(C2=CC=CC=C12)C | C15H21N
